US05106835
To a solution of 5.3 g of 1-methyl-1,2,4-triazole in 100 ml of tetrahydrofuran under nitrogen at -75° C. was added via syringe 25.6 ml of n-butyllithium. The solution was stirred 1.5 hour at -75° C. and then 6.9 g of N-tert-butoxycarbonyl-L-leucinal in 25 ml of tetrahydrofuran at -75° C. was added. The mixture was stirred 1/2 hour each at -75° C. and at -23° C. the mixture was treated with 10 ml of saturated ammonium chloride and concentrated. The residue in 100 ml of ethyl acetate was washed with 50 ml of each of water, 2N citric acid, 1M sodium bicarbonate and brine and dried. The solution was filtered and concentrated to give 8.41 g (88%) f a colorless oil which partly crystallized. Two recrystallization from iso-propyl acetate afforded 1.85 of (S)2-(tert-butoxycarbonyl)amino-4-methyl-(R)1-(1-methyl-1H-1,2,4-triazol-5 -yl)pentan-1-ol, mp 144°-145° C. [α]D26 -26±1°(c, 1.1, MeOH).

reactant | 1-methyl-1,2,4-triazole | 5.3 g | CN1N=CN=C1 | C3H5N3
reactant | n-butyllithium | 25.6 ml | C(CCC)[Li]
reactant | N-tert-butoxycarbonyl-L-leucinal | 6.9 g | C(C)(C)(C)OC(=O)N[C@@H](CC(C)C)C=O | C11H21NO3
reactant | ammonium chloride | 10 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | (S)2-(tert-butoxycarbonyl)amino-4-methyl-(R)1-(1-methyl-1H-1,2,4-triazol-5 -yl)pentan-1-ol | C(C)(C)(C)OC(=O)N[C@H]([C@@H](O)C1=NC=NN1C)CC(C)C | C14H26N4O3
